US07402680B2
4-(1-Benzyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-3-yl)-phenol
The title compound (0.09 g) was prepared from 1.22 g of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester, 856 μL of benzylamine, and 1.29 g of 4-(2-nitro-vinyl)-phenol, which was added in EtOH (12 mL). MS (ESI): exact mass calculated for C20H20N2O, 304.16; found, m/z 305.2 [M+H]+. 1H NMR (500 MHz, CD3OD): 7.35-7.32 (m, 2H), 7.29-7.25 (m, 2H), 7.17-7.14 (m, 4H), 6.98 (s, 1H), 6.80-6.77 (m, 2H), 5.12 (s, 2H), 4.31 (s, 2H), 3.49 (t, J=6.3 Hz, 2H), 2.85 (t, J=6.3 Hz, 2H).

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 1.22 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | benzylamine | 856 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | 4-(2-nitro-vinyl)-phenol | 1.29 g | [N+](=O)([O-])C=CC1=CC=C(C=C1)O | C8H7NO3
solvent | EtOH | 12 mL | CCO | C2H6O
product | 4-(1-Benzyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-3-yl)-phenol | 0.09 g | C(C1=CC=CC=C1)N1C=C(C=2CNCCC21)C2=CC=C(C=C2)O | C20H20N2O
